US07196076B2
1,6,7,8,9,10-Hexahydro-2H-azepino[3,2-g]quinolin-2-one (3-1)
A solution of 2,3,4,5-tetrahydro-1H-1-benzazapin-8-amine (0.6 g, 3.4 mmol) and 3-ethoxyacryloyl chloride (0.45 g, 3.4 mmol) in CH2Cl2 (50 mL) and 3N NaOH (10 mL) was stirred for 1 h at ambient temperature. The reaction was partitioned between CH2Cl2 and water. The organic layer was concentrated and the remaining brown oil was dissolved in 70% aq. H2SO4 (20 mL) and heated gently (50° C.) for 2 h. The reaction was cooled and neutralized with aq. NH4OH and partitioned between water and EtOAc. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated. The residue was dissolved in DMF (1 mL) and purified on a GILSON automated system affixed with a YMC COMBIFLASH 50 mm×20 mm reverse phase column eluted 5–95% CH3CN in water at 30 mL/min over 10.5 min to provide pure desired product. HRMS m/z (M+1) calcd 215.1179; found 215.1186.

reactant | 2,3,4,5-tetrahydro-1H-1-benzazapin-8-amine | 3.4 mmol, 0.6 g | N1CCCCC2=C1C=C(C=C2)N | C10H14N2
reactant | 3-ethoxyacryloyl chloride | 3.4 mmol, 0.45 g | C(C)OC=CC(=O)Cl | C5H7ClO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 3N, 10 mL | [OH-].[Na+]
product | 1,6,7,8,9,10-Hexahydro-2H-azepino[3,2-g]quinolin-2-one | N1C(C=CC2=CC3=C(C=C12)NCCCC3)=O | C13H14N2O
